US07799810B2
Step 2: 3-Amino-N-pyridin-3-yl-propionamide hydroiodide
To a stirred suspension of [2-(pyridin-3-ylcarbamoyl)-ethyl]-carbamic acid tert-butyl ester (0.075 g, 0.28 mmol) in MeCN (3 ml) is added dropwise TMSI (0.05 ml, 0.34 mmol). After 30 minutes, MeOH (1 ml) is added and stirring continued for a further 20 minutes. The solvent is removed in vacuo and the crude residue is triturated with MeOH/EtOAc to afford the title compound as a cream crystalline solid.

reactant | [2-(pyridin-3-ylcarbamoyl)-ethyl]-carbamic acid tert-butyl ester | 0.28 mmol, 0.075 g | C(C)(C)(C)OC(NCCC(NC=1C=NC=CC1)=O)=O | C13H19N3O3
reactant | TMSI | 0.34 mmol, 0.05 ml | [Si](C)(C)(C)I | C3H9ISi
reactant | MeOH | 1 ml | CO | CH4O
solvent | MeCN | 3 ml | CC#N | C2H3N
product | 3-Amino-N-pyridin-3-yl-propionamide hydroiodide | I.NCCC(=O)NC=1C=NC=CC1 | InChI=1S/C8H11N3O.HI/c9-4-3-8(12)11-7-2-1-5-10-6-7;/h1-2,5-6H,3-4,9H2,(H,11,12);1H
